US07294627B2
A suspension of 1-t-butoxycarbonyl-4-[(2-chloropyrimidin-4-ylamino)methyl]piperidine (8.40 g, 25.7 mmol), sodium acetate (4.22 g, 51.4 mmol) and 5% palladium on activated carbon (5.47 g, 2.57 mmol) in ethanol (205 mL) and water (51 mL) is stirred rapidly under 1 atmosphere of hydrogen for 24 hours. After the atmosphere of hydrogen is replaced with argon the mixture is filtered through a bed of Celite™ and the mixture is concentrated in vacuo. Chloroform, water and saturated sodium bicarbonate are added, the phases are separated and the aqueous phase is extracted into chloroform (×3). The combined organic extracts are dried (sodium sulfate), filtered and concentrated in vacuo. The residue is taken into methanol (750 mL) and hydrogen chloride gas is passed through the solution maintaining the temperature at less than 20° C. The mixture is kept at this temperature for 24 hours before it is concentrated in vacuo and freeze-dried from water, providing 4-[(pyrimidin-4-ylamino)methyl]piperidine hydrochloride (5.82 g, 99%).

reactant | 1-t-butoxycarbonyl-4-[(2-chloropyrimidin-4-ylamino)methyl]piperidine | 25.7 mmol, 8.40 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NC(=NC=C1)Cl | C15H23ClN4O2
reactant | sodium acetate | 51.4 mmol, 4.22 g | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 2.57 mmol, 5.47 g | [Pd] | Pd
solvent | ethanol | 205 mL | C(C)O | C2H6O
solvent | water | 51 mL | O | H2O
product | 4-[(pyrimidin-4-ylamino)methyl]piperidine hydrochloride | 5.82 g, 99% | Cl.N1=CN=C(C=C1)NCC1CCNCC1 | InChI=1S/C10H16N4.ClH/c1-4-11-5-2-9(1)7-13-10-3-6-12-8-14-10;/h3,6,8-9,11H,1-2,4-5,7H2,(H,12,13,14);1H
